US05270324
Step 1: 2-(2-iodophenyl)butanoic acid
To a solution of diisopropylamine (5.6 mL, 40 mmol) in dry THF (60 mL) at -10° C. was added 1.6M BuLi (25 mL, 40 mmol). After 30 min, a solution of 2-iodophenylacetic acid (5.24 g, 20 mmol) in THF (20 mL) was slowly added. The solution was stirred for 1 h, at which point iodoethane (1.6 mL, 117 mmol) was added. After 2 h at r.t. the reaction was quenched with 0.5M NH4OAc solution and 6M HCl (10mL) and the product was extracted with EtOAc. The organic layer was dried (MgSO4) and evaporated to give an oily residue which was purified by flash chromatography (15:85 EtOAc:hexane containing 5% AcOH) to give 4.37 g of the title compound as an off-white solid.

reactant | diisopropylamine | 40 mmol, 5.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 40 mmol, 1.6M, 25 mL | [Li]CCCC
reactant | 2-iodophenylacetic acid | 20 mmol, 5.24 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | iodoethane | 117 mmol, 1.6 mL | ICC | C2H5I
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2-iodophenyl)butanoic acid | 4.37 g | IC1=C(C=CC=C1)C(C(=O)O)CC | C10H11IO2
